US09403798B2
1-(4-Chlorobenzyl)-4-[5-fluoro-4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one
To a dichloromethane solution (1.0 mL) of 1-(4-chlorobenzyl)-4-[4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one (15 mg, 0.04 mmol) synthesized in Synthesis Example 90, (diethylamino)sulfur trifluoride (10 μL, 0.04 mmol) was added at 0° C. and the resultant mixture was stirred at room temperature for 1.5 hours. After the completion of the reaction, dichloromethane was added to the reaction solution and the resultant reaction solution was washed with saturated sodium bicarbonate water and brine. The resultant organic layer was dried over anhydrous sodium sulfate and was concentrated under reduced pressure. To the resultant residue, silica gel was added and the mixture was filtered, followed by washing the mixture with ethyl acetate. The filtrate was concentrated under reduced pressure to obtain the title compound (7 mg, yield: 46%).

reactant | 1-(4-chlorobenzyl)-4-[4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one | 0.04 mmol, 15 mg | ClC1=CC=C(CN2C(N=C(N=C2)N2CC=C(C(C2)O)C2=CC=C(C=C2)F)=O)C=C1 | C21H18ClFN4O2
reactant | (diethylamino)sulfur trifluoride | 0.04 mmol, 10 μL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | 1-(4-Chlorobenzyl)-4-[5-fluoro-4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one | 7 mg, yield: 46% | ClC1=CC=C(CN2C(N=C(N=C2)N2CC=C(C(C2)F)C2=CC=C(C=C2)F)=O)C=C1 | C21H17ClF2N4O
